US05866592
β-Phenyl-α,α-dimethyl-β-alanine hydrochloride (1.88 g, 8.19 mmol) was dissolved in DMF (100 ml). To the resulting solution, triethylamine (Et3N) (3.5 ml, 25.11 mmol) and 4-cyanobenzoyl-N-hydroxysuccinimide ester (4-cyanobenzoyl-OSu) (2.2 g, 9.01 mmol) were added under cooling with ice and the mixture was stirred at room temperature overnight. The solvent was distilled off and the residue was dissolved in a 5% aqueous ammonia and washed with ether. The aqueous layer was adjusted to pH 3 with citric acid under cooling with ice and extracted with ethyl acetate. The collected ethyl acetate layer was washed with a saturated aqueous solution of NaCl and dried over anhydrous sodium sulfate. The solvent was distilled off and a crystal of N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanine was obtained upon recrystallization from an ether-hexane mixed solution (2.54 g, 96.2%).

reactant | β-Phenyl-α,α-dimethyl-β-alanine hydrochloride | 8.19 mmol, 1.88 g | Cl.C1(=CC=CC=C1)C(N)C(C(=O)O)(C)C
reactant | triethylamine | 25.11 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-4-cyanobenzoyl-β-phenyl-α,α-dimethyl-β-alanine | C(#N)C1=CC=C(C(=O)NC(C(C(=O)O)(C)C)C2=CC=CC=C2)C=C1 | C19H18N2O3
